US09102625B2
To a solution of ethyl 6-chloro-4-(thiophen-2-ylmethylamino)nicotinate (1.54 g, 5.19 mmol) in DMF (8 mL) and HCONH2 (2 mL, 50.3 mmol), NaOEt (21% by wt., 7.80 mL, 20.9 mmol) in EtOH was added. The mixture was stirred at room temperature for 20 min. HOAc (2 mL) was added to neutralize NaOEt. Water was then added to induce precipitation. The precipitate was collected, dried on vacuum to give 6-chloro-4-(thiophen-2-ylmethylamino)nicotinamide as a solid (1.10 g).

reactant | ethyl 6-chloro-4-(thiophen-2-ylmethylamino)nicotinate | 5.19 mmol, 1.54 g | ClC1=NC=C(C(=O)OCC)C(=C1)NCC=1SC=CC1 | C13H13ClN2O2S
reactant | HCONH2 | 50.3 mmol, 2 mL | C(=O)N | CH3NO
reactant | NaOEt | 20.9 mmol, 7.80 mL | CC[O-].[Na+]
reactant | HOAc | 2 mL | CC(=O)O | C2H4O2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | EtOH | CCO | C2H6O
solvent | Water | O | H2O
product | 6-chloro-4-(thiophen-2-ylmethylamino)nicotinamide | 1.10 g | ClC1=NC=C(C(=O)N)C(=C1)NCC=1SC=CC1 | C11H10ClN3OS
